US07566805B2
To a suspension of benzhydrylthioacetic acid (63.7 g, 0.246 mol) in methanol (250 mL) was added a solution of concentrated H2SO4 (1.6 mL) in isopropyl alcohol (65 mL) at room temperature (about 22 degrees C.). To this suspension was added 30% H2O2 in water (65 mL) drop wise over 25 minutes. The reaction was monitored by TLC and was completed within 2 hours. The solution was diluted with a solution of NaHSO3 (125 mg) in water (700 mL). The resulting precipitate was filtered, washed with water, then methanol: water (1:1), and dried to give benzhydrylsulfinylacetic acid (47.6 g). 1H-NMR indicated the desired product was obtained along with ˜10 percent starting material and some impurities. The compound was triturated with ethanol (100 mL), filtered and dried to give pure benzhydrylsulfinylacetic acid (33.4 g, 49.4%) as a colorless solid. (See Prisinzano, T. et al, Tetrahedron Asymm., 2004, 15, 1053-1058)

reactant | benzhydrylthioacetic acid | 0.246 mol, 63.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)CC(=S)O | C15H14OS
reactant | H2SO4 | 1.6 mL | OS(=O)(=O)O | H2O4S
reactant | H2O2 | OO | H2O2
reactant | isopropyl alcohol | 65 mL | C(C)(C)O | C3H8O
solvent | methanol | 250 mL | CO | CH4O
solvent | water | 65 mL | O | H2O
solvent | NaHSO3 | 125 mg | OS(=O)[O-].[Na+]
solvent | water | 700 mL | O | H2O
product | benzhydrylsulfinylacetic acid | 47.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)S(=O)CC(=O)O | C15H14O3S
